### PR TITLE
[Merged by Bors] - chore: split `ClassGroup.mk0_surjective`

### PR DESCRIPTION
**Pull request by Vierkantor**
Not only was this a huge declaration, it also remained unfolded throughout checking the proof, so things like defeq checking were extremely slow (total declaration elaboration time ~1 minute on my machine). Splitting it into a `def` + proofs makes everything much faster.

Total build time for this file on my machine went from ~140 seconds to ~80 seconds.

I came across this issue while trying to figure out why #6011 appeared to slow down building of `ClassGroup.lean`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/ClassGroup.lean [hunk 1]
```diff
@@ -312,53 +319,78 @@ theorem ClassGroup.mk0_eq_mk0_iff [IsDedekindDomain R] {I J : (Ideal R)⁰} :
...
+    refine ⟨_, hzJ, ?_⟩
+    rw [← mul_assoc, mul_inv_cancel fa_ne_zero, one_mul]
+  · intro zI' hzI'
+    obtain ⟨y, hy⟩ := ha zI' hzI'
+    rw [← Algebra.smul_def, mem_coeIdeal]
+    refine' ⟨y, _, hy⟩
+    show (algebraMap R _ a)⁻¹ * algebraMap R _ y ∈ (I : FractionalIdeal R⁰ (FractionRing R))
+    rwa [hy, Algebra.smul_def, ← mul_assoc, inv_mul_cancel fa_ne_zero, one_mul]
+
 -- Porting note: This proof needs some extra heartbeats to complete
```
Comment (Vierkantor) [inline Mathlib/RingTheory/ClassGroup.lean:388]:
```suggestion
```

**Comment by ocfnash** [comment]
bors merge
